US09079866B2
N-[4′-(5-Aminopyrazin-2-yl)-3′-fluoro-2′-methylbiphenyl-2-yl]methanesulfonamide
To a mixture of 5-(4-chloro-2-fluoro-3-methylphenyl)pyrazin-2-amine (75 mg, 0.32 mmol), (2-(methylsulfonamido)phenyl)boronic acid (85 mg, 0.39 mmol) and chloro(2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl)[2-(2′-amino-1,1′-biphenyl)]palladium(II) (5.0 mg, 0.006 mmol) in a sealed tube flushed with N2 were added N2 sparged K3PO4 (1.26 ml, 0.5 N) followed by N2 sparged THF (0.63 ml). The reaction mixture was stirred at rt for 18 hours. The reaction mixture was then partitioned between EtOAc and brine. The organic layer was isolated, dried over MgSO4, filtered and concentrated to dryness. Purification by FCC afforded the title compound (100 mg, 85%). MS (ESI): mass calcd. for C18H17FN4O2S, 372.10; m/z found, 373.1 [M+H]+. 1H NMR (500 MHz, DMSO-d6) δ 8.81 (s, 1H), 8.39-8.35 (m, 1H), 8.02 (d, J=1.5, 1H), 7.70 (m, 1H), 7.47 (dd, J=8.1, 1.0, 1H), 7.45-7.39 (m, 1H), 7.29 (m, 1H), 7.21 (dd, J=7.6, 1.5, 1H), 7.07 (d, J=8.0, 1H), 6.67 (s, 2H), 2.87 (s, 3H), 2.01 (d, J=2.5, 3H).

reactant | 5-(4-chloro-2-fluoro-3-methylphenyl)pyrazin-2-amine | 0.32 mmol, 75 mg | ClC1=C(C(=C(C=C1)C=1N=CC(=NC1)N)F)C | C11H9ClFN3
reactant | (2-(methylsulfonamido)phenyl)boronic acid | 0.39 mmol, 85 mg | CS(=O)(=O)NC1=C(C=CC=C1)B(O)O | C7H10BNO4S
catalyst | chloro(2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl)[2-(2′-amino-1,1′-biphenyl)]palladium(II) | 0.006 mmol, 5.0 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=CC(=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C.C1=CC=C([C-]=C1)C2=CC=CC=C2N.Cl[Pd+]
product | N-[4′-(5-Aminopyrazin-2-yl)-3′-fluoro-2′-methylbiphenyl-2-yl]methanesulfonamide | 100 mg, 85% | NC=1N=CC(=NC1)C1=C(C(=C(C=C1)C1=C(C=CC=C1)NS(=O)(=O)C)C)F | C18H17FN4O2S
